US04650910
196 g (4 mol) of sodium Cyanide, 12.5 g (40 mmol) of tributylbenzylammonium chloride and 660 mL of water are initially introduced into a 2 l multineck apparatus with reflux condenser, internal thermometer and dropping funnel, and the mixture is heated to 90° C. At the same temperature, 644 g (4 mol) of molten 4-chlorobenzyl chloride are added dropwise in 1 h, and the mixture is then stirred for 2 h. After having been cooled to about 35° C., the organic phase is separated off, washed with water and fractionated over a short column. 552 g of 4-chlorobenzyl cyanide (91% of theory) are obtained.

reactant | sodium Cyanide | 4 mol, 196 g | [C-]#N.[Na+]
reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
catalyst | tributylbenzylammonium chloride | 40 mmol, 12.5 g | [Cl-].C(CCC)[N+](CC1=CC=CC=C1)(CCCC)CCCC
solvent | water | 660 mL | O | H2O
product | 4-chlorobenzyl cyanide | 552 g, 91% | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
